US06211199B1
107.3 Synthesis of 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-(t-butyldimethylsilyloxy)propyl)-2-oxopyrrolidine
Combine 1-(3,4,5-trimethoxybenzyl)-3-(3-(t-butyldimethylsilyloxy)propyl)-2-oxopyrrolidine (0.71 g, 1.62 mmol) and tetrahydrofuran (10 mL). Cool to −78° C. using a dry-ice/acetone bath. Add a solution of sec-butyl lithium (1.37 mL, 1.3 M in hexane, 1.78 mmol). After 30 minutes, add 4-fluorobenzyl bromide (0.34 g, 1.78 mmol). After 15 minutes, warm slowly to ambient temperature. After 12 hours, add water and extract three times with ethyl acetate. Dry the combined organic layers over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph the residue on silica gel eluting with 1/1 ethyl acetate/hexane to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzyl)-3-(3-(t-butyldimethylsilyloxy)propyl)-2-oxopyrrolidine | 1.62 mmol, 0.71 g | COC=1C=C(CN2C(C(CC2)CCCO[Si](C)(C)C(C)(C)C)=O)C=C(C1OC)OC | C23H39NO5Si
reactant | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
reactant | sec-butyl lithium | 1.78 mmol, 1.3 M, 1.37 mL | C(C)(CC)[Li]
reactant | 4-fluorobenzyl bromide | 1.78 mmol, 0.34 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | O | H2O
product | 1-(3,4,5-trimethoxybenzyl)-3-(4-fluorophenylmethyl)-3-(3-(t-butyldimethylsilyloxy)propyl)-2-oxopyrrolidine | COC=1C=C(CN2C(C(CC2)(CCCO[Si](C)(C)C(C)(C)C)CC2=CC=C(C=C2)F)=O)C=C(C1OC)OC | C30H44FNO5Si
